US04167576
C. 2-Cyano-2-(4-phenylthiophenyl)hexyl bromide
To a mixture of 31 g (0.1 mole) of 2-(4-phenylthiophenyl) hexanenitrile, 22 g (0.13 mole) of dibromomethane and 100 ml of dimethyl sulfoxide is added 12 g (0.15 mole) of 50% sodium hydroxide solution dropwise with stirring. Reaction mixture is stirred at 60° for 1/2 hour and then poured into water and extracted with ether. The combined ether extracts are washed with water and dried over MgSO4. Solvent is evaporated to give 38 g of product.

reactant | 2-(4-phenylthiophenyl) hexanenitrile | 0.1 mole, 31 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)C(C#N)CCCC | C18H19NS
reactant | dibromomethane | 0.13 mole, 22 g | BrCBr | CH2Br2
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.15 mole, 12 g | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Cyano-2-(4-phenylthiophenyl)hexyl bromide | 38 g | C(#N)C(CBr)(CCCC)C1=CC=C(C=C1)SC1=CC=CC=C1 | C19H20BrNS
